US04000306
A solution of 3-(2-chloroethoxy)-2-phenyl-isoindolin-1-one in isopropylamine (120 cc.) is heated in an autoclave at 120° C. for 24 hours. After cooling, the reaction mixture is poured into water (200 cc.) and 4N sodium hydroxide solution (16 cc.). The alkaline solution obtained is extracted with diethyl ether (250 cc.). The organic solution is washed with water (3 × 50 cc.) and is then extracted with 4N hydrochloric acid (18 cc.). The acid solution obtained is rendered alkaline by adding 4N sodium hydroxide solution (20 cc.) and the oily product which separates out is extracted with diethyl ether (2 × 100 cc). The organic extracts are then dried over sodium sulphate and concentrated to dryness under reduced pressure. A product (14.2 g.), which melts at about 85° C., is obtained and is dissolved in acetone (150 cc.). A 4.03 N solution of hydrogen chloride in diethyl ether (11.3 cc.) is added to the resulting solution. The product which crystallises is filtered off and then washed with acetone (10 cc.). After drying, 3-(2-isopropylaminoethoxy)-2-phenyl-isoindolin-1-one hydrochloride (11.3 g.), which melts at 184° C., is obtained.

reactant | 3-(2-chloroethoxy)-2-phenyl-isoindolin-1-one | ClCCOC1N(C(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C16H14ClNO2
reactant | water | 200 cc | O | H2O
reactant | sodium hydroxide | 4N, 16 cc | [OH-].[Na+]
reactant | sodium hydroxide | 4N, 20 cc | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | isopropylamine | 120 cc | C(C)(C)N | C3H9N
solvent | acetone | 150 cc | CC(=O)C | C3H6O
solvent | diethyl ether | 11.3 cc | C(C)OCC | C4H10O
product | 3-(2-isopropylaminoethoxy)-2-phenyl-isoindolin-1-one hydrochloride | 11.3 g | Cl.C(C)(C)NCCOC1N(C(C2=CC=CC=C12)=O)C1=CC=CC=C1 | InChI=1S/C19H22N2O2.ClH/c1-14(2)20-12-13-23-19-17-11-7-6-10-16(17)18(22)21(19)15-8-4-3-5-9-15;/h3-11,14,19-20H,12-13H2,1-2H3;1H
